US07612114B2
6-{2-{[4-(2-Azocan-1-ylethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 1-azocan-1-yl-2-chloroethanone (15 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.9 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 1-azocan-1-yl-2-chloroethanone | 15 mg | N1(CCCCCCC1)C(CCl)=O | C9H16ClNO
product | 6-{2-{[4-(2-Azocan-1-ylethoxy)-3-fluorobenzyl]methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.9 mg | N1(CCCCCCC1)CCOC1=C(C=C(CCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1)F | C34H43FN2O3
